US09079835B2
A flame-dried round-bottomed flask was charged with Mg° (15 equiv, 18.75 mmol, 456 mg) and equipped with a condenser. (2E,4E)-dimethyl 3,4-bis(8-((tetrahydro-2H-pyran-2-yl)oxy)octyl)hexa-2,4-dienedioate (1 equiv, 744 mg, 1.25 mmol) was added in MeOH (16 mL) and the reaction was stirred at rt. After ˜30 min, the reaction began refluxing and was left to reflux for ˜45 min upon which time the reaction was permitted to cool to it, quenched with sat. aq. NH4Cl (5 mL), diluted with Et2O (15 mL), and H2O (20 mL). The liquid was decanted into a separatory funnel and the remaining solid was washed several times with Et2O. The layers were separated and the aqueous layer extracted with Et2O (3×20 mL). The combined organic layers were washed with brine (30 mL), dried with Na2SO4 and concentrated in vacuo to afford Dimethyl 3,4-bis(8-((tetrahydro-2H-pyran-2-yl)oxy)octyl)hex-3-enedioate (565 mg crude mass, ˜90% pure by 1HNMR, 0.95 mmol, 76%) as an inseparable 2:1 mixture of isomers which was used in the next reaction without further purification. TLC Rf=0.41 (20% EtOAc/Hex); 1HNMR (500 MHz): δ 4.61-4.56 (2H), 3.91-3.85 (2H), 3.77-3.70 (2H), 3.67 (s, 4H), 3.66 (s, 2H), 3.54-3.47 (2H), 3.42-3.35 (2H), 3.12 (s, 2.7H), 3.11 (s, 1.3H), 2.16-2.07 (4H), 1.90-1.80 (2H), 1.76-1.69 (2H), 1.63-1.49 (12H), 1.40-1.24 (20H); 13CNMR (125 MHz): δ 172.4, 172.2, 130.7, 130.6, 98.9, 67.7, 62.4, 51.8, 37.6, 37.2, 33.3, 32.9, 30.8, 29.8, 29.71, 29.68, 29.49, 29.47, 28.3, 28.1, 26.2, 25.5, 19.7; FTIR: 2926, 2854, 1737, 1434, 1295, 1200, 1156, 1136, 1119, 1078, 1022, 988, 869, 814 cm−1; HRMS-ESI: calc. for C34H60NaO8(M+Na)+: 619.4186. found: 619.4174.

reactant | (2E,4E)-dimethyl 3,4-bis(8-((tetrahydro-2H-pyran-2-yl)oxy)octyl)hexa-2,4-dienedioate | 1.25 mmol, 744 mg, 1 equiv | O1C(CCCC1)OCCCCCCCC\C(=C/C(=O)OC)\C(=C\C(=O)OC)\CCCCCCCCOC1OCCCC1 | C34H58O8
solvent | MeOH | 16 mL | CO | CH4O
product | Dimethyl 3,4-bis(8-((tetrahydro-2H-pyran-2-yl)oxy)octyl)hex-3-enedioate | O1C(CCCC1)OCCCCCCCCC(CC(=O)OC)=C(CC(=O)OC)CCCCCCCCOC1OCCCC1 | C34H60O8
